US08017610B2
(11a) Methyl 6-[1-(t-butoxycarbonyl)-1H-pyrrol-2-yl]nicotinate
Commercially available methyl 6-bromonicotinate (650 mg, 3.01 mmol) and commercially available 1-(t-butoxycarbonyl)pyrrole-2-boronic acid (960 mg, 4.34 mmol) were dissolved in 1,2-dimethoxyethane (30 mL), and palladium (II) acetate (34.0 mg, 0.151 mmol), triphenylphosphine (158 mg, 0.602 mol) and an aqueous potassium carbonate solution (2M, 4.5 mL, 9.00 mmol) were added, followed by stirring at 100° C. for 15 hours under nitrogen atmosphere. The reaction solution was cooled to room temperature, water (20 mL) and ethyl acetate (30 mL) were added, and the solution was separated. The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: ethyl acetate/hexane=0%-20%) to afford the desired compound (835 mg, yield 92%) as a yellow solid.

reactant | methyl 6-bromonicotinate | 3.01 mmol, 650 mg | BrC1=NC=C(C(=O)OC)C=C1 | C7H6BrNO2
reactant | 1-(t-butoxycarbonyl)pyrrole-2-boronic acid | 4.34 mmol, 960 mg | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | triphenylphosphine | 0.602 mol, 158 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 9.00 mmol, 2M, 4.5 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
catalyst | palladium (II) acetate | 0.151 mmol, 34.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | Methyl 6-[1-(t-butoxycarbonyl)-1H-pyrrol-2-yl]nicotinate | 835 mg, yield 92% | C(C)(C)(C)OC(=O)N1C(=CC=C1)C1=NC=C(C(=O)OC)C=C1 | C16H18N2O4
